US07524823B2
B] Preparation of thioacetic acid S-(3-quinolin-6-yl-propyl) ester
A solution of 0.41 g (2.0 mmol) 6-(3-chloro-propyl)-quinoline and 287 mg (2.5 mmol) potassium thioacetate in 8 ml acetone was heated to reflux for 8 hours. The mixture was concentrated in vacuo. The crude product was purified by flash chromatography (silica gel, gradient of 0 to 2% methanol in DCM) to afford 353 mg (71%) of dark orange oil. MS(ISP): 246.3 [MH]+

reactant | 6-(3-chloro-propyl)-quinoline | 2.0 mmol, 0.41 g | ClCCCC=1C=C2C=CC=NC2=CC1 | C12H12ClN
reactant | potassium thioacetate | 2.5 mmol, 287 mg | C(C)(=S)[O-].[K+]
solvent | acetone | 8 ml | CC(=O)C | C3H6O
product | thioacetic acid S-(3-quinolin-6-yl-propyl) ester | 353 mg, 71% | N1=CC=CC2=CC(=CC=C12)CCCSC(C)=O | C14H15NOS
